US09315506B2
Synthesis of 2′-fluorofolic acid
The synthesis was done in analogy to the synthesis of 2′-nitrofolic acid following examples 1 to 4. In example 1 4-amino-2-fluoro-benzoic acid was used instead of 4-amino-2-nitrobenzoic acid. (HPLC purity: 97.5% area, m/z=460 [M+1]+, 1H-NMR (200 MHz, DMSO-d6) [ppm]: 8.65 (s, C(7)-H, 1H); 7.75 (t, N(8′)-H, 1H, exchangeable with D2O); 7.51 (t, C(3′H), 1H); 7.20 (t, N(10)-H, 1H, exchangeable with D2O); 7.03 (bs, NH2, 2H, exchangeable with D2O); 6.50 (m, C(5′)-H, (C(6′)-H, 2H); 4.48 (d, C(6)H2, 2H); 4.31 (m, C(α)-H, 1H); 2.28 (m, C(β)-H2, 2H); 1.96 (m, C(γ)-H2, 2H).

reactant | 2′-nitrofolic acid | [N+](=O)([O-])C1=C(C(N[C@@H](CCC(=O)O)C(=O)O)=O)C=CC(=C1)NCC1=CN=C2N=C(N)NC(=O)C2=N1 | C19H18N8O8
reactant | 4-amino-2-fluoro-benzoic acid | NC1=CC(=C(C(=O)O)C=C1)F | C7H6FNO2
product | 2′-fluorofolic acid | FC1=C(C(N[C@@H](CCC(=O)O)C(=O)O)=O)C=CC(=C1)NCC1=CN=C2N=C(N)NC(=O)C2=N1 | C19H18FN7O6
